US07211595B2
1-(bromomethyl)-4-chloro-2-iodobenzene
A mixture of 4-chloro-2-iodo-1-methylbenzene (3.95 g, 15.6 mmol), N-bromosuccinimide (3.10 g, 17.6 mmol), and benzoyl peroxide (0.1 g) in carbon tetrachloride (100 mL) was heated to reflux for 48 hours, filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 4:100 ethyl acetate/hexanes to provide 3.34 g (64%) of the desired product. MS (DCI/NH3) m/z 330, 332 (M+H)30; 1H NMR (CDCl3) δ 7.85 (d, 1H), 7.40-7.32 (m, 2H), 4.59 (s, 2H).

reactant | 4-chloro-2-iodo-1-methylbenzene | 15.6 mmol, 3.95 g | ClC1=CC(=C(C=C1)C)I | C7H6ClI
reactant | N-bromosuccinimide | 17.6 mmol, 3.10 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 1-(bromomethyl)-4-chloro-2-iodobenzene | 3.34 g, 64% | BrCC1=C(C=C(C=C1)Cl)I | C7H5BrClI
